US07790737B2
A solution of {3-[(cyclopentylmethyl)(ethyl)amino]-6-methoxypyridin-2-yl}methanol (2.0 g, 7.57 mmol) in chloroform (200 mL) was added with manganese dioxide (20 g, 230 mmol), and the mixture was stirred at 55° C. for 16 hours. The reaction mixture was filtered through Celite, and the filtrate was washed with chloroform, and then concentrated under reduced pressure. The resulting residue was added with chloroform (200 mL) and manganese dioxide (20 g, 230 mmol), and the mixture was stirred at 55° C. for 6 hours. The reaction mixture was filtered through Celite, and the filtrate was washed with chloroform, and then concentrated under reduced pressure to obtain 3-[(cyclopentylmethyl)(ethyl)amino]-6-methoxypicolinaldehyde (1.68 g, 85%) as pale yellow oil.

reactant | {3-[(cyclopentylmethyl)(ethyl)amino]-6-methoxypyridin-2-yl}methanol | 7.57 mmol, 2.0 g | C1(CCCC1)CN(C=1C(=NC(=CC1)OC)CO)CC | C15H24N2O2
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 230 mmol, 20 g | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 230 mmol, 20 g | [O-2].[O-2].[Mn+4]
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-[(cyclopentylmethyl)(ethyl)amino]-6-methoxypicolinaldehyde | 1.68 g, 85% | C1(CCCC1)CN(C=1C(=NC(=CC1)OC)C=O)CC | C15H22N2O2
